US07829559B2
A solution of 1-(2-(4,5,6,7-tetrahydro-1-phenyl-1H-indazol-4-yl)acetyl)azepane (60 mg, 0.18 mmol) in anhydrous THF (2 mL) is slowly added to a suspension of LiAlH4 (20 mg, 0.53 mmol) in anhydrous THF (10 mL) cooled to 0° C. The mixture is refluxed for 3 hours following the reaction by means of TLC. The mixture is cooled, and water and a NaOH solution are added, the precipitate is filtered and washed with AcOEt. The organic phase is separated and washed with water and dried, giving 4-(2-(azepan-1-yl)ethyl)-4,5,6,7-tetrahydro-1-phenyl-1H-indazole (36 mg, 0.11 mmol, 63%, oil).

reactant | 1-(2-(4,5,6,7-tetrahydro-1-phenyl-1H-indazol-4-yl)acetyl)azepane | 0.18 mmol, 60 mg | C1(=CC=CC=C1)N1N=CC=2C(CCCC12)CC(=O)N1CCCCCC1 | C21H27N3O
reactant | LiAlH4 | 0.53 mmol, 20 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | O | H2O
reactant | NaOH | [OH-].[Na+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-(2-(azepan-1-yl)ethyl)-4,5,6,7-tetrahydro-1-phenyl-1H-indazole | 0.11 mmol, 36 mg, 63% | N1(CCCCCC1)CCC1C=2C=NN(C2CCC1)C1=CC=CC=C1 | C21H29N3
